US09428528B2
Step 4 Preparation of C-(7-Bromo-imidazo[1,2-a]pyridin-2-yl)-methylamine
To a stirred solution of 7-Bromo-2-chloromethyl-imidazo[1,2-a]pyridine (0.325 g, 1.326 mmol) in methanol (5 mL), NH3 gas is purged at 0° C. for 30 minutes. The reaction is allowed to stir at room temperature for 16 hours. The solvent is concentrated to afford the title compound (0.315 g). 1H-NMR (400 MHz, DMSO-d6) δ: 4.15 (s, 2H), 7.12-7.15 (dd J1=1.96 Hz, J2=7.24 Hz, 1H), 7.90 (s, 1H), 8.03 (s, 1H), 8.32 (bs, 2H), 8.61 (d, J=7.2 Hz, 1H). LC-MS (m/z): [M+H]=225.9.

reactant | 7-Bromo-2-chloromethyl-imidazo[1,2-a]pyridine | 1.326 mmol, 0.325 g | BrC1=CC=2N(C=C1)C=C(N2)CCl | C8H6BrClN2
reactant | NH3 | N | H3N
solvent | methanol | 5 mL | CO | CH4O
product | C-(7-Bromo-imidazo[1,2-a]pyridin-2-yl)-methylamine | 0.315 g | BrC1=CC=2N(C=C1)C=C(N2)CN | C8H8BrN3
